US06410562B1
Step B: [(5-Chlorobenzo[b]thiophen-2-yl)methyl]triphenylphosphonium Bromide (R=CH2P(C6H5)3Br)
A mixture of 2.50 g (9.56 mmol) 2-bromomethyl-5-chlorobenzo[b]thiophene and 2.51 g (9.57 mmol) triphenylphosphine in 50 ml xylene was heated at 140° C. After 3 h the reaction mixture was cooled to room temperature, and the phosphonium salt was filtered off, washed with xylene and tert.-butylmethylether, successively, and dried in vacuo.

reactant | 2-bromomethyl-5-chlorobenzo[b]thiophene | 9.56 mmol, 2.50 g | BrCC1=CC2=C(S1)C=CC(=C2)Cl | C9H6BrClS
reactant | triphenylphosphine | 9.57 mmol, 2.51 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | [(5-Chlorobenzo[b]thiophen-2-yl)methyl]triphenylphosphonium Bromide | [Br-].ClC1=CC2=C(SC(=C2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C27H21ClPS.BrH/c28-22-16-17-27-21(18-22)19-26(30-27)20-29(23-10-4-1-5-11-23,24-12-6-2-7-13-24)25-14-8-3-9-15-25;/h1-19H,20H2;1H/q+1;/p-1
